US07825256B2
Methanesulfonic acid (200 μL, 3.08 mmol) was added dropwise to a suspension of zinc powder (70.4 g, 1.08 mol) in anhydrous THF (228 mL) and the mixture was heated to 67° C. After 1 hour, a solution of 2-(1H-imidazol-1-yl)-6-methylpyrimidine-4-carbonitrile (20.0 g, 108 mmol) in THF (120 mL) was added followed by subsequent dropwise addition of ethyl 2-bromoacetate (90.8 g, 540 mmol) over a period of 1.5 h. The mixture was stirred for an additional 30 minutes at 67° C. then cooled to rt. The inorganic solids were removed by vacuum filtration, washed with THF (200 mL), and the filtrate was brought to pH=1 with 3 M hydrochloric acid (200 mL). The solution was stirred for 30 minutes at rt prior to removal of the solvent under vacuum. Ethyl 3-(2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)-3-oxopropanoate (14.3 g) was obtained as yellow solid and was used directly in the next step.

reactant | 2-(1H-imidazol-1-yl)-6-methylpyrimidine-4-carbonitrile | 108 mmol, 20.0 g | N1(C=NC=C1)C1=NC(=CC(=N1)C#N)C | C9H7N5
reactant | ethyl 2-bromoacetate | 540 mmol, 90.8 g | BrCC(=O)OCC | C4H7BrO2
reactant | THF | 228 mL | C1CCOC1 | C4H8O
reactant | THF | 120 mL | C1CCOC1 | C4H8O
catalyst | zinc | 1.08 mol, 70.4 g | [Zn] | Zn
catalyst | Methanesulfonic acid | 3.08 mmol, 200 μL | CS(=O)(=O)O | CH4O3S
product | Ethyl 3-(2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)-3-oxopropanoate | 14.3 g | N1(C=NC=C1)C1=NC(=CC(=N1)C(CC(=O)OCC)=O)C | C13H14N4O3
